US07547691B2
(B). Preparation of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methyl ester
A stirred suspension of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methyl ester (440 mg, 1.30 mmol) in 1,4-dioxane (10 mL) is treated with 3-(4-methyl-piperazin-1-yl)- propylamine (610 mg, 3.90 mmol) and diisopropylethylamine (500 mg, 3.90 mmol), the resultant mixture is heated at 90° C. under nitrogen for 16 hours. After concentration and subsequent chromatographic purification on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 1-10%, the title compound is isolated as a solid (310 mg, 51% yield).

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methyl ester | 1.30 mmol, 440 mg | COC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C14H8Cl2N2O2S
reactant | 3-(4-methyl-piperazin-1-yl)- propylamine | 3.90 mmol, 610 mg | CN1CCN(CC1)CCCN | C8H19N3
reactant | diisopropylethylamine | 3.90 mmol, 500 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C | C22H26ClN5O2S
